US07772262B2
a) Phenyl 3-methyl-3-nitrobutane-1-sulfonate
A mixture of 9.43 g of phenyl ethenesulfonate and 4.60 ml of 2-nitro-propane was heated to 80° C. and, at 80° C., 0.89 ml of ethyidiisopropylamine was added dropwise. The mixture was stirred at 80° C. for 4 hours and 30 minutes, left to stand at RT for 16 hours and then stirred at 80° C. for a further 2 hours. Cooling to RT was followed by addition of 250 ml of a 2N aqueous HCl solution and extraction 3 times with 150 ml of EA each time. Drying over Na2SO4 and removal of the solvent in vacuo were followed by coevaporation 3 times with 100 ml of toluene each time. 13.47 g of a pale yellow oil were obtained.

reactant | phenyl ethenesulfonate | 9.43 g | C(=C)S(=O)(=O)OC1=CC=CC=C1 | C8H8O3S
reactant | 2-nitro-propane | 4.60 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | ethyidiisopropylamine | 0.89 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HCl | 2N | Cl | ClH
solvent | EA | 150 ml | CC(OCC)=O | C4H8O2
product | Phenyl 3-methyl-3-nitrobutane-1-sulfonate | 13.47 g | CC(CCS(=O)(=O)OC1=CC=CC=C1)(C)[N+](=O)[O-] | C11H15NO5S
